US06054457
To a mixture of 3-methoxy-4-[2-[3-(tert-butoxycarbonyl)aminoprop-1-yl]oxybenzoyl]amino-N-[2-(4-aminobut-1-yl)oxy-4-methyl]phenyl-N-methylbenzamide (365 mg) and N-(tert-butoxycarbonyl)glycine (111 mg) in N,N-dimethylformamide (15 ml) were added N-ethyl-N'-(3-dimethylaminopropyl)carbodiimide hydrochloride (132 mg) and hydroxybenzotriazole (93.2 mg) and the mixture was stirred at ambient temperature overnight. The solution was diluted with ethyl acetate (30 ml) and the solution was washed successively with saturated aqueous sodium hydrogen carbonate, water and brine. The organic phase was dried over magnesium sulfate and the solvent was evaporated in vacuo to give an amorphous. The crude product was purified by silica gel column chromatography (1% methanol in chloroform) to give 3-methoxy-4-[2-[3-tert-butoxycarbonyl)aminoprop-1-yl]oxybenzoyl]amino-N-[2-4-(tert-butoxycarbonylamino)acetylaminobut-1-yl)oxy-4-methyl]phenyl-N-methylbenzamide (320 mg).

reactant | N-(tert-butoxycarbonyl)glycine | 111 mg | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | N-ethyl-N'-(3-dimethylaminopropyl)carbodiimide hydrochloride | 132 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | hydroxybenzotriazole | 93.2 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | phenyl-N-methylbenzamide | 320 mg | C1(=CC=CC=C1)C1=C(C(=O)NC)C=CC=C1 | C14H13NO
